US03943176
3-Hydroxy-2-isobutylsulfinyl-5,5-dimethyl-2-cyclohexen-1-one
A mixture of 3-hydroxy-2-isobutylthio-5,5-dimethyl-2-cyclohexen-1-one (10 g., 0.044 mole), 30 percent hydrogen peroxide (5.0 g., 0.044 mole), and 100 ml. of glacial acetic acid was allowed to stand at room temperature for 19 hours. The solution was poured into ice-water and the solid filtered to give 4.7 g. of crude product. After two from hexane the pure product was obtained as pink crystals 3.3 g., m.p. b 48.5°-50°C.

reactant | 3-hydroxy-2-isobutylthio-5,5-dimethyl-2-cyclohexen-1-one | 0.044 mole, 10 g | OC1=C(C(CC(C1)(C)C)=O)SCC(C)C | C12H20O2S
reactant | hydrogen peroxide | 0.044 mole, 5.0 g | OO | H2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | hexane | CCCCCC | C6H14
product | 3-Hydroxy-2-isobutylsulfinyl-5,5-dimethyl-2-cyclohexen-1-one | 3.3 g | OC1=C(C(CC(C1)(C)C)=O)S(=O)CC(C)C | C12H20O3S
